US04719200
To N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline methylester (4.31 g, 10 m mole), 1.5 N aqueous sodium hydroxide (10 ml, 15 m mole) was added and the mixture was stirred for 2 hours at 30° C. The solution was adjusted to pH 2.5 with 1N hydrochloric acid, and then extracted with two 50 ml portions of 1,2-dichloroethane. The thus obtained 1,2-dichloroethane layer was concentrated under reduced pressure. The residue was recrystallized with acetone-water to give N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline (3.68 g).

reactant | N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline methylester | 4.31 g | COC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O)=O | C22H29N3O6
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1.5 N, 10 ml | [OH-].[Na+]
product | N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline | 3.68 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C21H27N3O6
